Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
butoconazole / omeprazole / oxycodone
 
Attending: ___.
 
Chief Complaint:
Right calf pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with HIV on HAART, UC
on mesalamine, h/o HCV s/p interferon, and h/o provoked DVT in
___ who presented to the ED after she was found to have a 
new
left-sided acute DVT and segmental PEs.

She says that last ___ night, she started to have pain in
her left calf and was not able to sleep well. She went to have a
massage on ___, and the masseuse said they felt
something unusual in the calf. She went to her PCP's office and
from there she was referred to the ED due to concern for a new
DVT.

Other than left calf pain, she feels fine. No chest pain,
shortness of breath, palpitations, lightheadedness, or 
dizziness.

She was found to have a DVT in the right popliteal, peroneal, 
and
posterial tibial veins in ___. This was around the time she
was diagnosed with UC, so it was felt to be provoked. She was
bridged to warfarin on enoxaparin and maintained on warfarin
until the end of ___ when she elected to stop. 

She had been feeling fine in her normal state of health in the
interim. Her UC has not been active. She lives an active
lifestyle. She went to ___ in ___ but no other long
flights. 

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

ED COURSE:
VS: Tmax 98.4, HR ___, BP 100s-140s/70s-90s, RR ___, SpO2
99-100% on RA
Exam: "Musc/Extr/Back: Lower extremities are warm and well
perfused. The left calf is not really swollen, but is tender to
palpation. The left popliteal fossa is mildly tender palpation.
The thigh is not tender to palpation."
Labs: Trop <0.01, proBNP 51, Plt 115
EKG: Sinus rhythm 98. Normal PR, QRS, QTc intervals. No STEMI. 
No
clear signs of territorial ischemia.
Imaging: LLE Doppler US - occlusive thrombus in left peroneal 
and
gastrocnemius veins; CTA chest - segmental PE
Interventions: Apixaban 10 mg PO x2, Genvoya 1 tab x1, 
mesalamine
___ 800 mg PO x1
 
Past Medical History:
HIV on HAART
UC on mesalamine
H/o provoked DVT (___)
H/o HCV (s/p interferon)
 
Social History:
___
Family History:
Her maternal aunt had blood clots and was on
warfarin for many years.
 
Physical Exam:
ADMISSION EXAM:
VITALS: 24 HR Data (last updated ___ @ 1207)
    Temp: 98.7 (Tm 98.7), BP: 137/91, HR: 108, RR: 18, O2 sat:
98%, O2 delivery: Ra
GENERAL: Alert, NAD
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, NTTP, normoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, TTP in right calf
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
moves all limbs 
PSYCH: pleasant, appropriate affect

DISCHARGE EXAM:
VS: ___ ___ Temp: 98.2 PO BP: 112/76 HR: 95 RR: 18 O2 sat: 
100% O2 delivery: RA 
GENERAL: Alert, NAD
EYES: Anicteric, PERRL
ENT: mmm, OP clear
CV: NR/RR, no m/r/g
RESP: CTAB, no wheezes, crackles, or rhonchi
ABD/GI: Soft, ND, NTTP, normoactive bowel sounds
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, NTTP in right calf
VASC/EXT: No ___ edema, 2+ DP pulses
SKIN: No rashes or lesions noted on visible skin
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
moves all limbs 
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
LABS:
___ 05:51PM BLOOD WBC-6.4 RBC-4.06 Hgb-12.3 Hct-38.2 MCV-94 
MCH-30.3 MCHC-32.2 RDW-12.6 RDWSD-43.8 Plt ___
___ 05:33AM BLOOD WBC-6.1 RBC-4.07 Hgb-12.3 Hct-38.1 MCV-94 
MCH-30.2 MCHC-32.3 RDW-12.6 RDWSD-43.3 Plt ___
___ 05:51PM BLOOD Neuts-58.7 ___ Monos-8.8 Eos-2.0 
Baso-0.3 Im ___ AbsNeut-3.72 AbsLymp-1.90 AbsMono-0.56 
AbsEos-0.13 AbsBaso-0.02
___ 05:51PM BLOOD ___ PTT-27.2 ___
___ 05:51PM BLOOD Glucose-118* UreaN-11 Creat-0.8 Na-138 
K-3.9 Cl-100 HCO3-26 AnGap-12
___ 05:51PM BLOOD Calcium-8.7 Phos-3.5 Mg-2.2
___ 05:51PM BLOOD proBNP-51
___ 05:51PM BLOOD cTropnT-<0.01
___ 05:10PM BLOOD b2micro-1.9
___ 05:10PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND

MICRO:
___ 6:00 pm URINE
   URINE CULTURE (Pending): 

IMAGING/STUDIES:
Doppler US RLE (___):
IMPRESSION:  
There is occlusive thrombus in the left peroneal and
gastrocnemius veins.  No above knee DVT otherwise. 

CTA chest (___):
IMPRESSION:  
Segmental pulmonary emboli within the lingula and right lower
lobe confirmed, without findings of pulmonary arterial
hypertension, or right heart strain. 

EKG:  NSR, rate 98, normal axis, normal
intervals, no ST-T changes
 
Brief Hospital Course:
SUMMARY/ASSESSMENT: Ms. ___ is a ___ female with HIV 
on
HAART, UC on mesalamine, h/o HCV s/p interferon, and h/o 
provoked
DVT in ___ (s/p 4mo of warfarin) who presented to the ED
after she was found to have a new left-sided acute DVT and
segmental PEs.

ACUTE/ACTIVE PROBLEMS:

# Acute left-sided DVT
# Segmental pulmonary emboli (lingua and RLL)
# Sinus tachycardia
# H/o provoked RLE DVT (discontinued warfarin in ___
Her prior RLE DVT was felt to be provoked as it was diagnosed at
the same time that she was found to have ulcerative colitis. She
now has a DVT in the left ___ and segmental PEs. She has no
obvious provoking factors for these venous thromboemboli. She
does not smoke. There is no chance she is pregnant. She is up to
date on age appropriate cancer screening. She had a CT 
abd/pelvis
when she was found to have the first DVT without any lesions
suspicious for malignancy. 
Discussed with hematology consult as a curbside. Recommended
treatment with enoxaparin rather than apixaban (which was 
started
in the ED) for the loading doses given the lack of data re: dose
reduction in apixaban for patients taking Genvoya (because it is
a CYP3A inhibitor). She can plan to switch to a DOAC or warfarin
in follow-up with hematology in the future. Also recommended
sending beta2 glycoprotein and anti-cardiolipin antibodies for
follow-up as an outpatient.
She had no evidence of right heart strain on EKG or CTA chest. 
Sinus tachycardia resolved after IV fluids.
A follow up hematology appointment was set up at ___. She was 
discharged on enoxaparin 1mg/kg q12h.

CHRONIC/STABLE PROBLEMS:

# HIV on HAART - continued home Genvoya

# UC - continued home mesalamine 1600 mg BID

>30 minutes spent on complex discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Genvoya 1 TAB PO DAILY 
2. Mesalamine ___ 1600 mg PO BID 
3. Ascorbic Acid ___ mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Culturelle (Lactobacillus rhamnosus GG) 10 billion cell oral 
DAILY 
6. Loratadine 10 mg PO DAILY:PRN allergies 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q4H:PRN Pain - Mild/Fever  
2.  Enoxaparin Sodium 60 mg SC Q12H 
RX *enoxaparin 60 mg/0.6 mL 60 mg subcutaneous every twelve (12) 
hours Disp #*60 Syringe Refills:*0 
3.  Ascorbic Acid ___ mg PO DAILY  
4.  Culturelle (Lactobacillus rhamnosus GG) 10 billion cell oral 
DAILY  
5.  Genvoya 1 TAB PO DAILY  
6.  Loratadine 10 mg PO DAILY:PRN allergies  
7.  Mesalamine ___ 1600 mg PO BID  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute left lower extremity DVT
Segmental pulmonary emboli
Sinus tachycardia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to the hospital for monitoring, IV fluids, and 
anticoagulation selection after you were found to have a new 
clot in your left leg and pulmonary emboli (blood clots in the 
lungs).
Your heart rate was high so you were started on IV fluids, which 
improved your heart rate. 
Your anticoagulation plan was discussed with hematology. The 
best choice with the fewest interactions with your medications 
is enoxaparin (Lovenox) twice a day. 
You had some blood tests drawn to see if you have a blood 
clotting disorder. These are still pending at the time of 
discharge but you can follow up with your primary care doctor to 
find out the results.
You should also follow up with a hematologist. They may decide 
to change the enoxaparin to a pill in the future. 
Make sure you drink lots of water to stay hydrated!
Best wishes for your continued healing.
Take care,
Your ___ Care Team
 
Followup Instructions:
___